US08685970B2
A mixture of methyl 2-(pyridin-3-yl)-1,2,3,4-tetrahydroquinazoline-8-carboxylate (4.0 g, 14.8 mmol) and DDQ (5.0 g, 22.2 mmol) in CH2Cl2 (50 mL) was stirred at room temperature for 24 hours. The solvent was removed in vacuo, and the residue was purified by silica gel column chromatography (5% methanol in CH2Cl2) to obtain methyl 2-(pyridin-3-yl)quinazoline-8-carboxylate (3.5 g, 89% yield).

reactant | methyl 2-(pyridin-3-yl)-1,2,3,4-tetrahydroquinazoline-8-carboxylate | 14.8 mmol, 4.0 g | N1=CC(=CC=C1)C1NC2=C(C=CC=C2CN1)C(=O)OC | C15H15N3O2
reactant | DDQ | 22.2 mmol, 5.0 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(pyridin-3-yl)quinazoline-8-carboxylate | 3.5 g, 89% yield | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=N1)C(=O)OC | C15H11N3O2
